US07414061B2
4-[2-Benzyloxymethyl-1-(5-methyl-isoxazol-3-ylmethyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole
As described for Example 67, 4-(2-benzyloxymethyl-1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (100 mg, 0.29 mmol) using 3-(chloromethyl)-5-methylisoxazole instead of benzyl bromide was converted to the title compound (80 mg, 63%) which was obtained as a light yellow gum. MS: m/e=441.4 [M+H]+.

reactant | 4-(2-benzyloxymethyl-1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.29 mmol, 100 mg | C(C1=CC=CC=C1)OCC=1NC=C(N1)C=1C(=NOC1C)C1=CC=CC=C1 | C21H19N3O2
reactant | 3-(chloromethyl)-5-methylisoxazole | ClCC1=NOC(=C1)C | C5H6ClNO
product | 4-[2-Benzyloxymethyl-1-(5-methyl-isoxazol-3-ylmethyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole | 80 mg, 63% | C(C1=CC=CC=C1)OCC=1N(C=C(N1)C=1C(=NOC1C)C1=CC=CC=C1)CC1=NOC(=C1)C | C26H24N4O3
